US07129238B2
To a solution of (RS)-[3-(tert-butyl-diphenyl-silanyloxy)-2,6-difluoro-phenyl]-ethoxy-acetic acid ethyl ester (62.5 g) in THF (250 ml) and MeOH (250 ml) was added H2O (200 ml) and LiOH.H2O (10.5 g) and it was stirred 2 h at 65° C. MeOH and THF were evaporated and the aqueous residue was washed with Hept/Et2O 9:1 (2×150 ml). The organic layers were extracted with two portions of H2O (200 ml). The combined aqueous layers were cooled in an ice bath and acidified with 35 ml 25% aq. HCl. Extraction with AcOEt (3×200 ml) followed by washing with brine, drying (Na2SO4) and evaporation of the solvent afforded 28.7 g (99%) of (RS)-(2,6-difluoro-3-hydroxy-phenyl)-ethoxy-acetic acid. Yellow viscous oil. MS 231.2 ([M−H]−).

reactant | (RS)-[3-(tert-butyl-diphenyl-silanyloxy)-2,6-difluoro-phenyl]-ethoxy-acetic acid ethyl ester | 62.5 g | C(C)OC(C(OCC)C1=C(C(=CC=C1F)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)F)=O | C28H32F2O4Si
reactant | H2O | 200 ml | O | H2O
reactant | LiOH.H2O | 10.5 g | O[Li].O
solvent | THF | 250 ml | C1CCOC1 | C4H8O
solvent | MeOH | 250 ml | CO | CH4O
product | (RS)-(2,6-difluoro-3-hydroxy-phenyl)-ethoxy-acetic acid | 28.7 g, 99% | FC1=C(C(=CC=C1O)F)C(C(=O)O)OCC | C10H10F2O4
